### PR TITLE
Add Erdős Problem 781 (monochromatic descending waves), link the formal proof

### LINKED ISSUE #6333: Erdős Problem 781
### What is the Erdős problem?

https://www.erdosproblems.com/781

Let $f(k)$ be the minimal $n$ such that any $2$-colouring of $\{1,\ldots,n\}$ contains a monochromatic $k$-term descending wave: a sequence $x_1<\cdots <x_k$ such that, for $1<j<k$, $x_j \geq \frac{x_{j+1}+x_{j-1}}{2}$. Estimate $f(k)$. In particular is it true that $f(k)=k^2-k+1$ for all $k$?

Status: disproved (Alon–Spencer [AlSp89]: $f(k)\gg k^3$). A formal proof exists in plby/lean-proofs (`Erdos781.erdos_781`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05
* ams-11

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6333.

### What changed
Adds `FormalConjectures/ErdosProblems/781.lean` with `IsDescendingWave` and `f k` (the least `n` such that every 2-colouring of `Fin n` has a monochromatic `k`-term descending wave):
- `erdos_781.parts.i`: `f(k) ≍ k³` (Brown–Erdős–Freedman upper bound, Alon–Spencer lower bound), as `=Θ[atTop]`.
- `erdos_781.parts.ii` (`answer(False)`): `f(k) = k² - k + 1` fails for some `k ≥ 1`.

Both linked to plby/lean-proofs `Erdos781.erdos_781` (Codex and GPT-5.6 Sol; single Mathlib-only file), which gives `k³ ≤ 2⁴⁸ f(k)` and `f(k) ≤ 8k³ + 1` for `k ≥ 2⁵⁰`.
- Sorry'd literature variant: the Brown–Erdős–Freedman bounds `k² - k + 1 ≤ f(k) ≤ (k³ - 4k + 9)/3`.

### How checked
- Rebuilt plby's file against this repo's Mathlib: `#print axioms Erdos781.erdos_781` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statements on top of a renamed copy, same axioms (waves indexed by `Fin k` with `i+1 = j`, `j+1 = l` vs plby's `⟨i, _⟩, ⟨i+1, _⟩, ⟨i+2, _⟩`; colourings `Fin 2` vs `Bool`):

<details>
<summary>Bridge</summary>

```lean
open Filter Asymptotics

namespace Bridge781

lemma isDescendingWave_iff {k n : ℕ} (x : Fin k → Fin n) :
    Erdos781.IsDescendingWave (fun i ↦ (x i : ℕ)) ↔ Erdos781Plby.IsDescendingWave x := by
  unfold Erdos781.IsDescendingWave Erdos781Plby.IsDescendingWave
  have hmono : StrictMono (fun i ↦ (x i : ℕ)) ↔ StrictMono x := by
    constructor
    · intro h a b hab
      exact Fin.lt_def.2 (h hab)
    · intro h a b hab
      exact Fin.lt_def.1 (h hab)
  rw [hmono]
  refine and_congr_right fun _ => ?_
  constructor
  · intro h i hi
    exact h ⟨i, by omega⟩ ⟨i + 1, by omega⟩ ⟨i + 2, hi⟩ rfl rfl
  · rintro h ⟨i, hi⟩ ⟨j, hj⟩ ⟨l, hl⟩ hij hjl
    simp only at hij hjl
    subst hij hjl
    exact h i hl

/-- Colourings `Fin n → Fin 2` versus `Fin n → Bool`. -/
lemma forces_iff (k n : ℕ) :
    (∀ c : Fin n → Fin 2, ∃ x : Fin k → Fin n,
      Erdos781.IsDescendingWave (fun i ↦ (x i : ℕ)) ∧ ∃ γ, ∀ i, c (x i) = γ) ↔
      Erdos781Plby.ForcesDescending k n := by
  unfold Erdos781Plby.ForcesDescending Erdos781Plby.Monochromatic
  constructor
  · intro h c
    obtain ⟨x, hx, γ, hγ⟩ := h fun i => finTwoEquiv.symm (c i)
    refine ⟨x, (isDescendingWave_iff x).1 hx, finTwoEquiv γ, fun i => ?_⟩
    rw [← hγ i, Equiv.apply_symm_apply]
  · intro h c
    obtain ⟨x, hx, γ, hγ⟩ := h fun i => finTwoEquiv (c i)
    refine ⟨x, (isDescendingWave_iff x).2 hx, finTwoEquiv.symm γ, fun i => ?_⟩
    rw [← hγ i, Equiv.symm_apply_apply]

lemma f_eq (k : ℕ) : Erdos781.f k = Erdos781Plby.waveRamsey k := by
  unfold Erdos781.f Erdos781Plby.waveRamsey
  congr 1
  ext n
  exact forces_iff k n

theorem parts_i : type_of% Erdos781.erdos_781.parts.i := by
  simp only [f_eq]
  have h := Erdos781Plby.erdos_781.1
  refine ⟨?_, ?_⟩
  · rw [isBigO_iff]
    refine ⟨9, ?_⟩
    filter_upwards [eventually_ge_atTop (2 ^ 50)] with k hk
    have := (h k hk).2
    have hk1 : (1 : ℝ) ≤ k := by exact_mod_cast (show 1 ≤ k by omega)
    rw [Real.norm_of_nonneg (by positivity), Real.norm_of_nonneg (by positivity)]
    have : (Erdos781Plby.waveRamsey k : ℝ) ≤ 8 * k ^ 3 + 1 := by exact_mod_cast this
    nlinarith [one_le_pow₀ hk1 (n := 3)]
  · rw [isBigO_iff]
    refine ⟨2 ^ 48, ?_⟩
    filter_upwards [eventually_ge_atTop (2 ^ 50)] with k hk
    have := (h k hk).1
    rw [Real.norm_of_nonneg (by positivity), Real.norm_of_nonneg (by positivity)]
    exact_mod_cast this

theorem parts_ii : type_of% Erdos781.erdos_781.parts.ii := by
  show False ↔ _
  simp only [false_iff, f_eq]
  intro h
  have hlower := (Erdos781Plby.erdos_781.1 (2 ^ 50) le_rfl).1
  rw [h (2 ^ 50) (by norm_num)] at hlower
  norm_num at hlower

#print axioms Erdos781Plby.erdos_781
#print axioms parts_i
#print axioms parts_ii

end Bridge781
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«781»` passes.

### CODE REVIEW

**Review by mo271 — APPROVED** [review]

File: FormalConjectures/ErdosProblems/781.lean [hunk 1]
```diff
@@ -0,0 +1,79 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/781.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```
